US06136821
6-(4-carboxyphenyl)-8-(3-cyanophenyl)-1,7-naphthyridine
To a solution of 6-trifluoromethylsulfonyloxy-8-(3-cyanophenyl)-1,7-napthyridine (2.15 g, 5.67 mmol) in DMF (21.5 ml) is added 4-carboxy-phenylboronic acid (1.13 g, 6.81 mmol), bis(dibenzylidenacetone) palladium (131 mg, 0.23 mmol), triphenylphosphine (95 mg, 0.36 mmol) and aqueous K2CO3 (2N, 17 ml). The reaction mixture is stirred at 80° for 2.5 h. The hot solution is filtered through cellit and the crude product is precipitated by carefully adding water (10 ml) and aqueous HCl (2N, 8 ml). The suspension is filtered and the crude product is stirred in hot THF (30 ml). The cold suspension is filtered again to yield the title compound (1.12 g). M+H=352. Melting point >300°. Retention time HPLC=7.58 min (column: LiChroCart 125-4, Supersphere 60 RP-select B, 400; eluent: acetonitrile-water (0.1% TFA)=45:55; 1 ml/min; detection at 254 nm).

reactant | 6-trifluoromethylsulfonyloxy-8-(3-cyanophenyl)-1,7-napthyridine | 5.67 mmol, 2.15 g | FC(S(=O)(=O)OC=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N)(F)F | C16H8F3N3O3S
reactant | 4-carboxy-phenylboronic acid | 6.81 mmol, 1.13 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | triphenylphosphine | 0.36 mmol, 95 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 2N, 17 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 21.5 ml | CN(C)C=O | C3H7NO
catalyst | bis(dibenzylidenacetone) palladium | 0.23 mmol, 131 mg | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 6-(4-carboxyphenyl)-8-(3-cyanophenyl)-1,7-naphthyridine | 1.12 g | C(=O)(O)C1=CC=C(C=C1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N | C22H13N3O2
